US09233961B2
To a suspension of 3-[6-bromo-1H-imidazo[4,5-b]pyridin-2-yl]-4-chloroaniline (15 g, 46.36 mmol, 1.00 equiv) in dichloromethane (150 mL) was added furan-2-carbonyl chloride (9.1 g, 69.72 mmol, 1.50 equiv) in a bath of ice and stirred overnight at room temperature. The reaction was then quenched by the addition of 50 mL of methanol and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1/2) to give 8.9 g (46%) of N-(3-[6-bromo-1H-imidazo[4,5-b]pyridin-2-yl]-4-chlorophenyl)furan-2-carboxamide (I-2) as a light yellow solid. 1H-NMR: (DMSO, 300 MHz): 13.09-13.79 (m, 1H), 10.53 (s, 1H), 8.51 (s, 1H), 8.36 (brs, 2H), 7.98-8.02 (m, 2H), 7.68 (d, J=9.0 Hz, 1H), 7.40 (d, J=3.3 Hz, 1H), 6.74 (dd, J=3.3, 1.8 Hz, 1H). MS M/Z=419 (M+1).

reactant | 3-[6-bromo-1H-imidazo[4,5-b]pyridin-2-yl]-4-chloroaniline | 46.36 mmol, 15 g, 1.00 equiv | BrC=1C=C2C(=NC1)N=C(N2)C=2C=C(N)C=CC2Cl | C12H8BrClN4
reactant | furan-2-carbonyl chloride | 69.72 mmol, 9.1 g, 1.50 equiv | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | N-(3-[6-bromo-1H-imidazo[4,5-b]pyridin-2-yl]-4-chlorophenyl)furan-2-carboxamide | 8.9 g, 46% | BrC=1C=C2C(=NC1)N=C(N2)C=2C=C(C=CC2Cl)NC(=O)C=2OC=CC2 | C17H10BrClN4O2
